US08791102B2
Proceeding as in Reference 6, but substituting 4-(4-chlorophenoxy)aniline and (2S,4R)-1-(tert-butoxycarbonyl)-4-(benzyl)pyrrolidine-2-carboxylic acid, gave (2S,4R)-4-benzyl-N-(4-(4-chlorophenoxy)phenyl)pyrrolidine-2-carboxamide (190 mg, 47%).

reactant | 4-(4-chlorophenoxy)aniline | ClC1=CC=C(OC2=CC=C(N)C=C2)C=C1 | C12H10ClNO
reactant | (2S,4R)-1-(tert-butoxycarbonyl)-4-(benzyl)pyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)CC1=CC=CC=C1)C(=O)O | C17H23NO4
product | (2S,4R)-4-benzyl-N-(4-(4-chlorophenoxy)phenyl)pyrrolidine-2-carboxamide | 190 mg, 47% | C(C1=CC=CC=C1)[C@@H]1C[C@H](NC1)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C24H23ClN2O2
